US05780642
3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamine (2.50 g) and benzoyl chloride (1.10 g) were reacted in a similar manner to Example 55 to give N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)-propyl]imidazol-4-yl}ethyl)benzamide, as an oil. The compound contained 8% of N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)propyl]imidazol-5-yl}ethyl)benzamide, by 1H nmr and 13C nmr. These compounds may be separated by HPLC.

reactant | 3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamine | 2.50 g | NCCC=1N=CN(C1)CCCNC(COC1=CC=CC=C1)(C)C | C18H28N4O
reactant | benzoyl chloride | 1.10 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)-propyl]imidazol-4-yl}ethyl)benzamide | CC(COC1=CC=CC=C1)(C)NCCCN1C=NC(=C1)CCNC(C1=CC=CC=C1)=O | C25H32N4O2
